US06894046B2
A mixture of (±)-α-(4-amino-2,6-dichlorophenyl)-2-pyridineacetonitrile (0.324 mol) in H2SO4 90% (900 ml) was stirred at 90° C. for 2 hours, then poured out on ice and basified with a concentrated NH4OH solution. The precipitate was filtered off, washed with H2O and centrifuged. The residue was dried, yielding 86.0 g (90%) of (±)-α-(4-amino-2,6-dichlorophenyl)-2-pyridineacetamide (interm. 43).

reactant | (±)-α-(4-amino-2,6-dichlorophenyl)-2-pyridineacetonitrile | 0.324 mol | NC1=CC(=C(C(=C1)Cl)C(C#N)C1=NC=CC=C1)Cl | C13H9Cl2N3
reactant | NH4OH | [NH4+].[OH-]
solvent | H2SO4 | 900 ml | OS(=O)(=O)O | H2O4S
product | (±)-α-(4-amino-2,6-dichlorophenyl)-2-pyridineacetamide | 86.0 g, 90% | NC1=CC(=C(C(=C1)Cl)C(C(=O)N)C1=NC=CC=C1)Cl | C13H11Cl2N3O
